US04609670
A solution of 8 ml (0.047 mol) of 90% pure 1-phenyl-1-oxo-2-bromopropane and 4.25 g (0.052 mol) of 1-methylimidazole in 100 ml of diethyl ether was stirred at room temperature for approximately 24 hours. The precipitated solid was collected by filtration, washed with diethyl ether and dissolved in methanol. This solution was diluted with diethyl ether and the resulting white solid was collected by filtration. This solid was recrystallized from methanol/diethyl ether to afford 7.65 g of 1-methyl-3-(1-methyl-2-phenyl-2-oxoethyl)-1H-imidazolium bromide as white crystals. (55% yield) mp=167°-170° C.

reactant | 1-phenyl-1-oxo-2-bromopropane | 0.047 mol, 8 ml | C1(=CC=CC=C1)C(C(C)Br)=O | C9H9BrO
reactant | 1-methylimidazole | 0.052 mol, 4.25 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-methyl-3-(1-methyl-2-phenyl-2-oxoethyl)-1H-imidazolium bromide | 7.65 g, 55% yield | [Br-].C[NH+]1CN(C=C1)C(C(=O)C1=CC=CC=C1)C | InChI=1S/C13H16N2O.BrH/c1-11(15-9-8-14(2)10-15)13(16)12-6-4-3-5-7-12;/h3-9,11H,10H2,1-2H3;1H
